US04738970
3.5 Grams of 4-allyloxy-8-hydroxy-3-methyl-5,6,7,8-tetrahydroquinoline was dissolved in 40 ml of chloroform, to this solution was added dropwise a solution consisting of 2.8 g of phosphorus tribromide and 5 ml of chloroform under ice-cooled condition. The reaction mixture was stirred under ice-cooled condition for 2 hours, further stirred at room temperature for 2 hours. The reaction mixture was poured into a cold sodium hydroxide aqueous solution, then extracted with chloroform. The chloroform layer was washed with an aqueous solution saturated with sodium chloride, then dried with anhydrous magnesium sulfate. Chloroform was removed by evaporation, then the residue thus obtained was purified by a silica gel column chromatography (eluent: methylene chloride/methanol=100/1) to obtain 1.3 g of 4-allyloxy-8-bromo-3-methyl-5,6,7,8-tetrahydroquinoline.

reactant | 4-allyloxy-8-hydroxy-3-methyl-5,6,7,8-tetrahydroquinoline | C(C=C)OC1=C(C=NC=2C(CCCC12)O)C | C13H17NO2
reactant | phosphorus tribromide | 2.8 g | P(Br)(Br)Br | Br3P
reactant | sodium hydroxide | [OH-].[Na+]
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-allyloxy-8-bromo-3-methyl-5,6,7,8-tetrahydroquinoline | 1.3 g | C(C=C)OC1=C(C=NC=2C(CCCC12)Br)C | C13H16BrNO
